US05563141
Ethyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetate
Ethyl 4-bromoacetylphenoxyacetate (6.0 g) was added to a stirred, cooled (4° C.) solution of 1-(4-pyridyl)piperazine (6.5 g) in acetonitrile (225 ml). Stirring was continued for 1 hour at 4° C., then overnight at ambient temperature when the precipitated solid was removed by filtration. The filtrate was evaporated in vacuo and the solid residue triturated with water, filtered, then washed with water and dried. Recrystallisation from a small volume of ethanol gave the title compound, 1.71 g, as a cream coloured solid: m.p. 113°-114° C.; NMR (d6DMSO) δ8.15 (2H, d), 7.98 (2H, d), 7.02 (2H, d), 6.80 (2H, d), 4.89 (2H, d), 4.17 (2H, q), 3.84 (2H, s), 3.32 (4H, t), 2.62 (4H, t), 1.22 (3H t); m/e 384 (M+H)+ ; calculated for C21H25N3O4 : C, 65.8; H, 6.6; N, 11.0. found: C, 65.5; H, 6.6; N, 10.8%.

reactant | Ethyl 4-bromoacetylphenoxyacetate | 6.0 g | BrCC(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C12H13BrO4
reactant | 1-(4-pyridyl)piperazine | 6.5 g | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
solvent | acetonitrile | 225 ml | C(C)#N | C2H3N
product | Ethyl 4-[2-[4-(4-pyridyl)piperazin-1-yl]acetyl]phenoxyacetate | N1=CC=C(C=C1)N1CCN(CC1)CC(=O)C1=CC=C(OCC(=O)OCC)C=C1 | C21H25N3O4
